US06110924
5-decyl-5-[N-(2-hydroxyethyl)piperazinyl]barbituric acid
To a solution of 5-bromo-5-decylbarbituric acid (0.619 g) in 1.3 ml of dimethylsulfoxide, kept under stirring at 0° C., a solution of 0.93 g of N-(2-hydroxyethyl)piperazine in 0.7 ml of dimethylsulfoxide is added dropwise, then the reaction mixture is stirred at room temperature for 1 hour. The mixture is then cooled to 0° C. and added with 30 ml of water. A white solid separates, which is kept under stirring for 1 hour, then is filtered and dried under vacuum at 50° C. 0.309 g of the product are obtained, m.p. 181-182° C.

reactant | 5-bromo-5-decylbarbituric acid | 0.619 g | BrC1(C(NC(NC1=O)=O)=O)CCCCCCCCCC | C14H23BrN2O3
reactant | N-(2-hydroxyethyl)piperazine | 0.93 g | OCCN1CCNCC1 | C6H14N2O
reactant | water | 30 ml | O | H2O
solvent | dimethylsulfoxide | 1.3 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 0.7 ml | CS(=O)C | C2H6OS
product | 5-decyl-5-[N-(2-hydroxyethyl)piperazinyl]barbituric acid | 0.309 g | C(CCCCCCCCC)C1(C(NC(NC1=O)=O)=O)C1N(CCNC1)CCO | C20H36N4O4
